US04952571
A mixture of 2-(5,6-dimethoxy-benzo[b]thien-2-yl)-3-methyl-2-(4-morpholinyl)-pentanedinitrile (7.4 g), glacial acetic acid (37.5 ml) and water (12.5 ml) was stirred and heated at reflux under an atmosphere of nitrogen. After 45 min. the reaction mixture was cooled and poured into crushed ice (200 g). The ice was allowed to melt and the resultant precipitate was filtered and dried at 65° C. under vacuum to give 4-(5,6-dimethoxybenzo[b]thien-2-yl)-3-methyl-4-oxo-butane nitrile as a pale yellow solid (5.2 g). A portion crystallized from dichloromethane/diethyl ether had m.p. 148°-150° C.

reactant | 2-(5,6-dimethoxy-benzo[b]thien-2-yl)-3-methyl-2-(4-morpholinyl)-pentanedinitrile | 7.4 g | COC1=CC2=C(SC(=C2)C(C#N)(C(CC#N)C)N2CCOCC2)C=C1OC | C20H23N3O3S
reactant | acetic acid | 37.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 12.5 ml | O | H2O
product | 4-(5,6-dimethoxybenzo[b]thien-2-yl)-3-methyl-4-oxo-butane nitrile | 5.2 g | COC1=CC2=C(SC(=C2)C(C(CC#N)C)=O)C=C1OC | C15H15NO3S
